US05302718
3-Iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide
32.4 g 3-methyl-2-pyridinamine (32.4 g, 0.3 mol) was dissolved in isobutylmethylketone (200 ml) and 3-iodo-benzenesulfonyl chloride (30.2 g, 0.1 mol) was added with stirring. The solution was kept at 40° C. for 8 h and then added to dilute hydrochloric acid. The precipitate was filtered off and the organic phase was separated and evaporated. The residue was combined with the first solid material and recrystallized from ethanol. The crystals were dissolved in 1M sodium hydroxide (about 200? ml) and extracted with isobutylmethylketone (3×100 ml). The aqueous phase was partially evaporated to remove isobutylmethylketone residues. Ethanol (100? ml) was added and the solution acidified with acetic acid. The precipitate was filtered off, washed with water and dried. Yield 23 g, 61%.

reactant | 3-methyl-2-pyridinamine | 0.3 mol, 32.4 g | CC=1C(=NC=CC1)N | C6H8N2
reactant | 3-iodo-benzenesulfonyl chloride | 0.1 mol, 30.2 g | IC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | hydrochloric acid | Cl | ClH
solvent | isobutylmethylketone | 200 ml | C(C(C)C)C(=O)C | C6H12O
product | 3-Iodo-N-(3-methyl-2-pyridinyl)benzenesulfonamide | IC=1C=C(C=CC1)S(=O)(=O)NC1=NC=CC=C1C | C12H11IN2O2S
